US07910595B2
A mixture of 4-chloro-3-nitrobenzoyl chloride was reacted with Benzylamine to produce N-Benzyl-4-chloro-3-nitro-benzamide according to the procedure of Example 10A, which was treated sequentially using the procedures from Examples 22A and 22B to provide the title product.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | Benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N-Benzyl-4-chloro-3-nitro-benzamide | C(C1=CC=CC=C1)NC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O | C14H11ClN2O3
